US08809369B2
A mixture of 2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (3.0 g, 7.96 mmol), sodium hydroxide (1.8 g, 44.9 mmol), water (15 mL) in acetonitrile (30 mL) was stirred at 60° C. for 4 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (2×50 mL), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo to afford 2-(3-carbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (0.58 g, 20%) as a white solid which was used for next step without further purification: MS (ESI) M+1=325.2.

reactant | 2-(3-cyano-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 7.96 mmol, 3.0 g | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C#N)(C)C | C21H22N2O2
reactant | sodium hydroxide | 44.9 mmol, 1.8 g | [OH-].[Na+]
reactant | water | 15 mL | O | H2O
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
product | 2-(3-carbamoyl-phenyl)-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 0.58 g, 20% | C(N)(=O)C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C19H20N2O3
